US07125870B2
HCl (g) was bubbled through a solution of DL-allylglycine (2.0 g, 17.4 mmol) in methanol (50 mL) at room temperature. The reaction was stirred overnight, concentrated in vacuo, taken up in acetonitrile (50 mL), and re-concentrated to give 2-amino-pent-4-enoic acid methyl ester hydrochloride salt (2.8 g, 100%) as an oil. MS found: (M+CH3CN)+=171.

reactant | HCl | Cl | ClH
reactant | DL-allylglycine | 17.4 mmol, 2.0 g | C=CCC(C(=O)O)N | C5H9NO2
reactant | methanol | 50 mL | CO | CH4O
product | 2-amino-pent-4-enoic acid methyl ester hydrochloride salt | 2.8 g, 100% | Cl.COC(C(CC=C)N)=O | InChI=1S/C6H11NO2.ClH/c1-3-4-5(7)6(8)9-2;/h3,5H,1,4,7H2,2H3;1H
